US04418202
Ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate was prepared in accordance with the procedure of U.S. Pat. No. 4,252,739. For the reaction 750 ml benzene, 250 gms (2 moles) 1,4-dichlorobutene-2, 113 gms (1 mole) ethyl cyanoacetate and 3 gms tricaprylylmethylammonium chloride were charged to a reactor and heated to reflux with agitation. Potassium hydroxide (85%) pellets (132 gms; 2 moles) were then added to the stirred solution in small portions. A mild exotherm was observed with the addition of caustic and external cooling was provided as necessary to maintain mild reflux. When the KOH addition was complete the reaction was stirred at reflux for 5 hours while removing water by azeotropic distillation. The reaction mixture was then filtered and the benzene evaporated. Distillation under reduced pressure yielded ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate (B.p. 55° C. at 0.02 mm Hg, lit. 112° C. at 11 mm Hg.; nD25° 1.4661, lit. nD24° 1.4650).

reactant | 1,4-dichlorobutene-2 | 2 moles, 250 gms | C(/C=C/CCl)Cl | C4H6Cl2
reactant | ethyl cyanoacetate | 1 mole, 113 gms | C(#N)CC(=O)OCC | C5H7NO2
reactant | tricaprylylmethylammonium chloride | 3 gms | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
reactant | Potassium hydroxide | [OH-].[K+]
solvent | benzene | 750 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCC)C#N | C9H11NO2
